US06407096B1
(+)-3-(2-hydroxyethyl)-2,3-dihydrobenzofuran-7-yloxyacetic acid (−)-cis-2-benzylaminocyclohexanemethanol salt
3-(2-hydroxyethyl)-2,3-dihydrobenzofuran-7-yloxyacetic acid (2.91 g) was dissolved in ethanol (30 ml), and (−)-cis-2-benzylaminocyclohexanemethanol (1.88 g) was added to the resultant solution, followed by reflux and dissolution. Ethyl acetate (15 ml) was then added to the resultant solution, and the mixture was cooled to room temperature to obtain crystals. The thus-obtained crystals were filtered off, and then recrystallized 6 times from ethanol to obtain the object compound of 97%e.e (0.77 g, yield 14%).

reactant | 3-(2-hydroxyethyl)-2,3-dihydrobenzofuran-7-yloxyacetic acid | 2.91 g | OCCC1COC2=C1C=CC=C2OCC(=O)O | C12H14O5
reactant | (−)-cis-2-benzylaminocyclohexanemethanol | 1.88 g | C(C1=CC=CC=C1)N[C@@H]1[C@@H](CCCC1)CO | C14H21NO
reactant | Ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | (+)-3-(2-hydroxyethyl)-2,3-dihydrobenzofuran-7-yloxyacetic acid (−)-cis-2-benzylaminocyclohexanemethanol salt | yield 14% | C(C1=CC=CC=C1)N[C@@H]1[C@@H](CCCC1)CO.OCCC1COC2=C1C=CC=C2OCC(=O)O | InChI=1S/C14H21NO.C12H14O5/c16-11-13-8-4-5-9-14(13)15-10-12-6-2-1-3-7-12;13-5-4-8-6-17-12-9(8)2-1-3-10(12)16-7-11(14)15/h1-3,6-7,13-16H,4-5,8-11H2;1-3,8,13H,4-7H2,(H,14,15)/t13-,14-;/m0./s1
